US06239151B1
A solution of 0.157 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-methylvalerohydrazide in 5 ml of dimethylformamide was treated at room temperature under nitrogen with 0.250 g of 2-[N-(9-fluorenylmethyloxycarbonyl)-4-piperidine]acetic acid and 0.132 g of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride. The mixture was stirred overnight at room temperature and evaporated. The residue was dissolved in ethyl acetate and washed with 5% aqueous citric acid solution, 5% aqueous sodium hydrogen carbonate solution, saturated sodium chloride solution, and then dried over anhydrous magnesium sulphate and evaporated to give 0.500 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-2-(N-(9-fluorenylmethyloxycarbonyl)-4-piperidyl)acetyl]-4-methylvalerohydrazide in the form of a clear oil.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-methylvalerohydrazide | 0.157 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@](C(=O)NNCC(C)C)(CCC)C | C26H41N3O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.132 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-methylvalerohydrazide | CC(CCC(=O)NN)C | C6H14N2O
